US07517875B2
After adding acetic acid (28.6 μl) and sodium triacetoxyborohydride (52.99 mg, 0.25 mmol) to a mixed solution of (1H-benzimidazol-2-yl)-piperidin-4-ylmethyl-amine (30.32 mg, 0.10 mmol) and a mixed solution of the obtained 4-phenylbutylaldehyde (38.45 mg) in dichloroethane (1.0 ml) and dimethylformamide (0.5 ml), the mixture was stirred at room temperature overnight. The reaction suspension was passed through SCX (Bond Elute SCX500MG), and the SCX was washed with a mixed solution of chloroform-methanol (1:1). This was followed by elution with a 2N ammonia-methanol solution, and the solvent was then distilled off under reduced pressure to obtain a residue. The residue was purified by preparative HPLC to obtain (1H-benzimidazol-2-yl)-[1-(4-phenyl-butyl)-piperidin-4-ylmethyl]-amine. The compound was identified by LC-MS.

reactant | acetic acid | 28.6 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.25 mmol, 52.99 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (1H-benzimidazol-2-yl)-piperidin-4-ylmethyl-amine | 0.10 mmol, 30.32 mg | N1C(=NC2=C1C=CC=C2)NCC2CCNCC2 | C13H18N4
reactant | dichloroethane | 1.0 ml | ClC(C)Cl | C2H4Cl2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | (1H-benzimidazol-2-yl)-[1-(4-phenyl-butyl)-piperidin-4-ylmethyl]-amine | N1C(=NC2=C1C=CC=C2)NCC2CCN(CC2)CCCCC2=CC=CC=C2 | C23H30N4
